* C:\Users\Aditya Baskoro\Downloads\UAS_497786\Elday-UAS-2025-1\Task 1\TotemPole_497786.asc
MOSFET VDrain VGate 0 0 IRFZ48N
Vd1 N003 0 12
Vgg N006 0 PULSE(0 12 0 50n 50n 5u 10u)
Rg1 VGate N006 100
RLoad1 VDrain N003 220
Cd1 N003 0 100µ
Q§NPN N002 N005 VGate_Totem 0 BD139
Q§PNP VGate_Totem N005 0 0 BD140
MOSFET_Totem VDrain_Totem VGate_Totem 0 0 IRFZ48N
Rg2 N005 N004 100
RLoad2 N001 VDrain_Totem 220
Vpwm N004 0 PULSE(0 12 0 50n 50n 5u 10u)
VL N001 0 12
Vd2 N002 0 12
Cd2 N002 0 100µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\Aditya Baskoro\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Aditya Baskoro\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 4u
.model BD139 NPN( IS=2.3985E-13 BF=244.9 NF=1.0 BR=78.11 NR=1.007 ISE=1.0471E-14 NE=1.2 ISC=1.9314E-11 NC=1.45 VAF=98.5 VAR=7.46 IKF=1.1863 IKR=0.1445 RB=2.14 RBM=0.001 IRB=0.031 RE=0.0832 RC=0.01 CJE=2.92702E-10 VJE=0.67412 MJE=0.3300 FC=0.5 CJC=4.8831E-11 VJC=0.5258 MJC=0.3928 XCJC=0.5287 XTB=1.1398 EG=1.2105 XTI=3.0 Vceo=80 Icrating=3 mfg=fairchild)
.model BD140 PNP( IS=2.9537E-13 BF=201.4 NF=1.0 BR=23.765 NR=1.021 ISE=1.8002E-13 NE=1.5 ISC=7.0433p NC=1.38 VAF=137.0 VAR=8.41 IKF=1.0993 IKR=0.10 RB=1.98 RBM=0.01 IRB=0.011 RE=0.1109 RC=0.01 CJE=2.1982E-10 VJE=0.7211 MJE=0.3685 FC=0.5 CJC=6.8291E-11 VJC=0.5499 MJC=0.3668 XCJC=0.5287 XTB=1.4883 EG=1.2343 XTI=3.0 Vceo=80 Icrating=3 mfg=fairchild)
* Muhammad Aditya Rahmansyah Baskoro\n22/497786/TK/54570\nTask 1
.backanno
.end
